US08084483B2
Lithium hydroxide solution (1M aqueous, 0.387 mL, 0.387 mmol, 3 eq) was added to a solution of ethyl 1-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)cyclobutanecarboxylate (61 mg, 0.129 mmol) in THF/methanol (2/1, 3 mL) and the mixture stirred at room temperature for 18 h. The mixture was acidified with HCL (1N aqueous, 0.645 mL, 0.645 mmol, 5 eq), concentrated, water (110 mL) added and extracted with diethyl ether (2×15 mL). The combined organic extracts were dried over calcium chloride and concentrated to give 1-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)cyclobutanecarboxylic acid as an off-white solid (43 mg, 75%).

reactant | Lithium hydroxide | 0.387 mmol, 1M, 0.387 mL, 3 eq | [OH-].[Li+]
reactant | ethyl 1-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)cyclobutanecarboxylate | 0.129 mmol, 61 mg | BrC=1N(C(=NN1)SC1(CCC1)C(=O)OCC)C1=CC=C(C2=CC=CC=C12)C1CC1 | C22H22BrN3O2S
solvent | THF methanol | 3 mL | C1CCOC1.CO
product | 1-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)cyclobutanecarboxylic acid | 43 mg, 75% | BrC=1N(C(=NN1)SC1(CCC1)C(=O)O)C1=CC=C(C2=CC=CC=C12)C1CC1 | C20H18BrN3O2S
